US06737431B2
N-Acetyl-7-(3-aminopropyl)-6-bromo-2-ethylbenzoxazole
A solution of N-t-butoxycarbonyl 7-(3-aminopropyl)-6-bromo-2-ethylbenzoxazole (30 mg, 0.078 mmol), in methylene chloride (1 mL) was treated with 4 M HCl in dioxane (1 mL) and stirred for 2 hours. The solvent was evaporated and the residue was taken up in pyridine (2 mL) and treated with acetic anhydride (100 μL). After stirring for 2 hours, the reaction was diluted with EtOAc (5 mL) and washed with saturated aqueous copper (II) sulfate (2×5 mL). The organic layer was dried with magnesium sulfate and evaporated. The product was purified on a silica gel column and eluted with 25% EtOAc/hexanes to give a clear oil (10 mg, 40%).

reactant | N-t-butoxycarbonyl 7-(3-aminopropyl)-6-bromo-2-ethylbenzoxazole | 0.078 mmol, 30 mg | C(C)(C)(C)OC(=O)N1C(OC2=C1C=CC(=C2CCCN)Br)CC | C17H25BrN2O3
reactant | HCl | 4 M | Cl | ClH
reactant | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-Acetyl-7-(3-aminopropyl)-6-bromo-2-ethylbenzoxazole | 10 mg, 40% | C(C)(=O)N1C(OC2=C1C=CC(=C2CCCN)Br)CC | C14H19BrN2O2
